US07179912B2
A solution of trifluoromethanesulfonic acid 5-hydroxy-4-oxo-2-phenyl-4H-chromen-7-yl ester (200 mg, 0.518 mmol), morpholine (0.05 mL, 0.622 mmol), tris(dibenzylideneacetone)dipalladium(0) (9.4 mg, 0.010 mmol), racemic-2,2′bis(diphenylphosphino)-1,1′-binapthyl (19 mg, 0.030 mmol), and cesium carbonate (236 mg, 0.725 mmol) in toluene (5 mL) was heated to reflux for 24 h. The mixture was allowed to cool to room temperature, filtered through a ¾″ silica gel (60 Å) plug, then the plug was washed with EtOAc (40 mL). The resulting solution was concentrated under vacuum and purified via Biotage chromatography with gradient elution from 15% EtOAc/hexanes to 50% EtOAc/hexanes to yield 37 mg (22%) of 5-hydroxy-7-morpholin-4-yl-2-phenyl-chromen-4-one. See, A. Echavarren et al., J. Am. Chem. Soc., 109, pp. 5478–5486 (1987). Rf=0.12 (25% EtOAc/hexanes).

reactant | trifluoromethanesulfonic acid 5-hydroxy-4-oxo-2-phenyl-4H-chromen-7-yl ester | 0.518 mmol, 200 mg | OC1=C2C(C=C(OC2=CC(=C1)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1)=O | C16H9F3O6S
reactant | morpholine | 0.622 mmol, 0.05 mL | N1CCOCC1 | C4H9NO
reactant | racemic-2,2′bis(diphenylphosphino)-1,1′-binapthyl | 0.030 mmol, 19 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.725 mmol, 236 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.010 mmol, 9.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-hydroxy-7-morpholin-4-yl-2-phenyl-chromen-4-one | 37 mg, 22% | OC1=C2C(C=C(OC2=CC(=C1)N1CCOCC1)C1=CC=CC=C1)=O | C19H17NO4
